US05504071
Synthesis and pharmacological activity of N-Me-(L)-Pro(L)-Leu-(L)-TrpOMe.HCl (compound 10)
A suspension of 1.0 g (7.74 mmoles) of N-Me-(L)-Pro,OH (Sigma) in 60 ml of dry methylene chloride (CH2Cl2) was brought, in an argon atmosphere, to the temperature of an ice and salt bath. The following were then added in succession: 1.250 g (7.74 mmoles) of commercial 1-hydroxybenzotriazole (HOBt) and 1.600 g (7.75 mmoles) of N,N'-dicyclohexylcarbodiimmide (DCC), leaving the system under stirring and maintaining control of the temperature for a further 30 minutes. To the reaction mixture was then added with 2.800 g (7.61 mmoles) of (L)-Leu-(L)-TrpOMe.HCl (Novabiochem) and 0.840 ml (7.62 mmoles) of 4-methylmorpholine (NMM), leaving the system under stirring for 12 hours with the temperature free to rise to room temperature. The fine white precipitate was then filtered away and washed with a little CH2Cl2. The latter was put back into the filtered reaction solution, which was concentrated under vacuum to approximately half its original volume, filtering away the new white precipitate. It was then extracted in succession using 5% NaHCO3 (3×30 ml) and saturated aqueous NaCl (2×30 ml), discarding the aqueous phases. The organic phase was then extracted with acetate buffer at pH 4 (3×30 ml), discarding the organic phase. The aqueous phase was brought to pH 6 and extracted using CH2Cl2 (3×30 ml). The organic phase, extracted with saturated aqueous NaCl (2×30 ml), was left in a cold chamber, under argon atmosphere and anhydrous Na2SO4 for 24 hours. The desiccant was then filtered away, the organic solution concentrated to a small volume and the residual yellowish liquid added dropwise under energetic stirring to an excess of dry petroleum ether (30/50), obtaining an abundant white precipitate. After several hours in a cold chamber the white solid was filtered and, taken up at the limit of solubility with anhydrous dioxane, was precipitated again in an excess of a solution of 1.0 M of gaseous HCl in anhydrous ethyl ether. After leaving the suspension to rest in a cold chamber for approximately 1 hour, the excess of acid was eliminated under a flow of dry nitrogen, then adding a large excess of anhydrous ethyl ether. The abundant fine milk-white precipitation, filtered under vacuum and washed in a little anhydrous ethyl ether, was left for 24 hours under vacuum on P2O5 . 2.550 g (70.0%) of an analytically pure semi-crystalline white solid were recovered.

reactant | (L)-Leu-(L)-TrpOMe.HCl | 7.61 mmoles, 2.800 g | N[C@@H](CC(C)C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)OC.Cl
reactant | 4-methylmorpholine | 7.62 mmoles, 0.840 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl ether | C(C)OCC | C4H10O
product | N-Me-(L)-Pro(L)-Leu-(L)-TrpOMe.HCl | N1([C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)OC)CCC1)C.Cl | InChI=1S/C24H34N4O4.ClH/c1-15(2)12-19(26-23(30)21-10-7-11-28(21)3)22(29)27-20(24(31)32-4)13-16-14-25-18-9-6-5-8-17(16)18;/h5-6,8-9,14-15,19-21,25H,7,10-13H2,1-4H3,(H,26,30)(H,27,29);1H/t19-,20-,21-;/m0./s1
